Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut / 
Wellbutrin / ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
Abd Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o woman w/ complex medical history- seizure disorder, prior 
DVT/PE currently on apixaban, multiple prior CVAs (MRI brain 
___ showing 3 punctate areas in the right cerebellum 
suggestive of acute to subacute infarction), nephrolithiasis 
complicated by persistent hematuria and E. coli sepsis 
(requiring ureteral stenting and lithotripsy), prior gastric 
bypass surgery complicated by SBOs/multiple surgeries/adhesions, 
severe GERD/esophagitis, chronic lower back pain, osteoarthritis 
status post right TKA, depression/anxiety, and chronic opiate 
use with history of abuse who is referred in from ___ clinic for 
evaluation of abdominal pain.  
 Per Dr. ___ note dated ___- "She was most recently  
 discharged from the ED after AMS attributed to overdose of  
 methadone, s/p narcan administration ___. She was also seen 
 
 in the ED on ___ after a tonic-clonic seizure in the setting 
of  
 medication non-adherence to Keppra. At this visit, she was  
 diagnosed with UTI and DC'd on CIPRO for 5 days. Urine was  
 contaminated. Subsequently, reduced methadone dosing to 10mg 
TID.  
 For the history of her multiple recent hospitalizations, please 
 
 refer to last clinic F/U note from Dr. ___. Of note, she 
has a history of cholecystectomy and gastric bypass in ___ and 
multiple SBOs subsequently. Her last abdominal surgery was in 
___.  
 The patient presents today for pain with eating. This started  
 ___ and has been progressive. She will eat crackers or toast 
 
 and she experiences pain once it gets to her stomach. Within 5  

 minutes of eating she experiences severe nausea and has to lay 
in  
 the fetal position and wait for it to go away. This also 
presents  
 with lower midline ABD pain which is non-radiating and severe.  

 She is able to take fluids with small sips only. She feels that 
 
 she is severely dehydrated and is orthostatic. She has not  
 vomited at all, but an occasional gag. In terms of bowel  
 movements, she is having them every other day, formed and no  
 blood. Last bowel movement this morning was normal without 
pain.  
 She is passing gas. Urinating frequently although not  
 particularly large volumes. She has a ___ who came yesterday 
and  
 called HCA to set up this appointment.  
 She has not had any seizures since her emergency department 
visit  
 and has not been passing out, but appears generally sedated to  

 her family who is here with her today. She feels strongly that  

 her episode of AMS in the ED was NOT due to opioids and is  
 concerned that this might have been an additional seizure.  
 Patient does also have a known history of 
esophagitis/gastritis,  
 had undergone workup for possible LINX procedure given severe  
 reflux. Last EGD ___. Patient missed her appointment with  
 Dr. ___ ___, on omeprazole and promethazine. This does 
not  
 feel like that sensation to her and the promethazine is not  
 helping. "  
 In the ED, initial VS were:97.9 70 106/62 16 99% RA  
 Exam notable for:Upper quadrant epigastric and right lower 
quadrant abdominal tenderness, no acute distress, dry mucous 
membranes, lungs clear to auscultation bilaterally.  
 ECG:  
 Labs showed: Trop-T: <0.01, WBC 3.6 Alb: 2.9 UA 45 ___  
 Imaging showed:  
 CT Abd and pelvis-  
 1. No acute intra-abdominal process to explain the patient's 
symptoms.  
 2. Similar appearance of mild intrahepatic biliary ductal 
dilatation and dilation of the CBD, status post cholecystectomy. 
 
 3. There is little to no residual fluid component of a left 
retroperitoneal collection, now measuring 1.7 x 1.0 cm, likely 
representing evolving hematoma. The left iliacus collection is 
no longer visualized.  
 4. Unchanged 3 throughout diverticulum with intraluminal 
calcification.  
 Patient received:  
 ___ 19:29 IV Ondansetron 4 mg ___  
 ___ 19:29 IVF NS ___ Started  
 ___ 19:54 IV Acetaminophen IV 1000 mg ___  

 ___ 20:40 IV Morphine Sulfate 4 mg ___  
 ___ 20:40 IVF NS ___ Started  
 ___ 20:41 IVF NS 1000 mL ___ Stopped (1h 
___  
 ___ 21:59 IV Morphine Sulfate 4 mg ___  
 ___ 21:59 IVF NS 1000 mL ___ Stopped (1h 
___  
 ___ 22:24 PO BuPROPion (Sustained Release) 200 mg 
___  
 ___ 22:24 PO/NG Doxepin HCl 10 mg ___  
 ___ 22:24 PO LevETIRAcetam 1500 mg ___  
 ___ 22:31 PO/NG Methadone 5 mg ___  
 ___ 00:11 IV HYDROmorphone (Dilaudid) 1 mg ___ 
 
 ___ 01:16 PO Ciprofloxacin HCl 500 mg ___  
 ___ 01:16 IV Ondansetron 4 mg  
 Transfer VS were:98.3 66 115/65 18 100% RA  
 
 On arrival to the floor, patient reports that her abd pain is 
better after the pain meds they gave her in ED. Notes that it's 
___ and points to RUQ. Baseline abd pain is ___ and midline 
near scars. Is not feeling nauseous anymore but hesitant to try 
eating anything. No vomiting. Feels weak and hungry. Hasn't 
eaten much since ___, especially hasn't really eaten since 
___.  
 Denies dysuria but endorses increased urinary freq and urgency. 
Felt feverish yesterday and this AM, subjectively. Denies any 
diarrhea, blood in urine or stools, melena, CP/SOB.  

 
Past Medical History:
- h/o HTN and DMII, resolved after gastric bypass per patient  
 - s/p cholecystectomy and gastric bypass (___), with f/u  
 complicated by multiple ex lap, gastrectomy, reversal surgery,  

 failed J-tube c/b colonic perforation  
 - multiple SBO during f/u from above  
 - hernia repair  
 - chronic abdominal pain, peptic ulcer disease  
 - asthma, stroke (left sided), osteoarthritis, GERD, DVT/PE  
 - narcotic abuse, tobacco abuse  
 - depression, anxiety  
 - muscle weakness / myelopathy, chronic low back pain  
 - vulvar folliculitis  
 - arthorplasty - right total knee  
 - hepatitis C - positive ab test, negative HCV viral load in 2x 
 
 tests  
 - nephrolithiasis  
 - thyromegaly - TSH wnl, low free T4  

 
Social History:
___
Family History:
Mother with diabetes and HTN. Brother with CHF 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 VS: 98.4 PO 128 / 89 74 18 100 Ra  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
 NECK: supple, no LAD, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, mild TTP in RUQ, no rebound/guarding, no 
hepatosplenomegaly  
 BACK: no CVA tenderness  
 EXTREMITIES: no cyanosis, clubbing, or edema  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, moving all 4 extremities with purpose LUE and LLE 
___ in strength, her baseline post CVA, RLE and RUE ___  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 1518)
    Temp: 98.4 (Tm 98.8), BP: 132/82 (107-132/72-82), HR: 88 
(69-94), RR: 17 (___), O2 sat: 97% (97-98), O2 delivery: Ra, 
Wt: 154.2 lb/69.95 kg  
GENERAL: NAD, laying back in bed with EEG leads on
HEENT: AT/NC, EOMI, no JVD
HEART: RRR, S1/S2 normal, no m/g/r appreciated
LUNGS: CTAB
ABDOMEN: +BS, soft, non-distended, TTP in RUQ. Improved TTP in
the epigastric region, no rebound/guarding, no 
hepatosplenomegaly
BACK: no CVA tenderness
EXTREMITIES: no cyanosis, clubbing, or edema, +pulses
NEURO: A&Ox3, ___ upper and lower motor strength, sensation in
tact, in tact finger to nose testing
SKIN: no rashes
 
Pertinent Results:
ADMISSION LABS:
___ 10:00AM   GLUCOSE-69* UREA N-8 CREAT-0.8 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-106 TOTAL CO2-26 ANION GAP-9*
___ 10:00AM   ALT(SGPT)-18 AST(SGOT)-31 LD(LDH)-166 
CK(CPK)-30 ALK PHOS-82 TOT BILI-0.3
___ 10:00AM   CK-MB-1 cTropnT-<0.01
___ 10:00AM   CALCIUM-8.2* PHOSPHATE-4.3 MAGNESIUM-1.6
___ 10:00AM   WBC-2.7* RBC-2.98* HGB-9.3* HCT-29.9* 
MCV-100* MCH-31.2 MCHC-31.1* RDW-17.7* RDWSD-66.4*
___ 10:00AM   NEUTS-43.5 ___ MONOS-8.2 EOS-2.6 
BASOS-0.7 IM ___ AbsNeut-1.16* AbsLymp-1.19* AbsMono-0.22 
AbsEos-0.07 AbsBaso-0.02
___ 10:00AM   PLT COUNT-179
___ 10:00AM   ___ PTT-36.8* ___
___ 10:16PM URINE  HOURS-RANDOM
___ 10:16PM URINE  UHOLD-HOLD
___ 10:16PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 10:16PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-LG*
___ 10:16PM URINE  RBC-1 WBC-45* BACTERIA-FEW* YEAST-NONE 
EPI-1
___ 10:16PM URINE  AMORPH-RARE*
___ 10:16PM URINE  MUCOUS-RARE*
___ 07:22PM   ___ COMMENTS-GREEN TOP 
___ 07:22PM   LACTATE-1.3
___ 07:00PM   GLUCOSE-89 UREA N-13 CREAT-0.9 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-103 TOTAL CO2-26 ANION GAP-12
___ 07:00PM   estGFR-Using this
___ 07:00PM   ALT(SGPT)-20 AST(SGOT)-33 ALK PHOS-97 TOT 
BILI-0.4
___ 07:00PM   LIPASE-6
___ 07:00PM   cTropnT-<0.01
___ 07:00PM   ALBUMIN-2.9*
___ 07:00PM   WBC-3.6* RBC-3.42* HGB-10.8* HCT-34.1 
MCV-100* MCH-31.6 MCHC-31.7* RDW-17.8* RDWSD-65.4*
___ 07:00PM   NEUTS-43.2 ___ MONOS-6.5 EOS-1.4 
BASOS-0.6 IM ___ AbsNeut-1.54* AbsLymp-1.71 AbsMono-0.23 
AbsEos-0.05 AbsBaso-0.02
___ 07:00PM   ___ PTT-34.3 ___
___ 07:00PM   PLT COUNT-212

IMAGING:
___ CXR:
No acute intrathoracic process.

___ CT ABD & PELVIS WITH CO:
1. No acute intra-abdominal process to explain the patient's 
symptoms. 
2. Similar appearance of mild intrahepatic biliary ductal 
dilatation and 
dilation of the CBD, status post cholecystectomy. 
3. There is little to no residual fluid component of a left 
retroperitoneal collection, now measuring 1.7 x 1.0 cm, likely 
representing evolving hematoma. The left iliacus collection is 
no longer visualized. 
4. Unchanged urethral diverticulum with intraluminal 
calcification.

EEG ___:
This is an abnormal continuous EEG monitoring study because of
mild generalized background slowing consistent with a mild 
encephalopathy.
There are bursts of higher voltage sharply contoured theta/delta 
slowing
consistent with subcortical or deep midline dysfunction. There 
are no
definite epileptiform discharges and no electrographic seizures.

MICRO:
Time Taken Not Noted     Log-In Date/Time: ___ 10:16 pm
      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

INTERVAL LABS:
___: Vimpat level 10.9
___: Keppra level pending

DISCHARGE LABS:

___ 06:15AM BLOOD WBC-3.5* RBC-3.46* Hgb-10.9* Hct-34.5 
MCV-100* MCH-31.5 MCHC-31.6* RDW-17.1* RDWSD-62.8* Plt ___
___ 04:15AM BLOOD Glucose-73 UreaN-16 Creat-0.8 Na-140 
K-4.6 Cl-105 HCO3-27 AnGap-8*
___ 06:15AM BLOOD ALT-16 AST-31 AlkPhos-87
___ 04:15AM BLOOD Calcium-8.4 Phos-4.0 Mg-1.6
___ 06:15AM BLOOD Vit___-___
___ 06:15AM BLOOD 25VitD-51
 
Brief Hospital Course:
SUMMARY:
========
___ y/o woman w/ complex medical history- seizure disorder, prior 
DVT/PE currently on apixaban, multiple prior CVAs (MRI brain 
___ showing 3 punctate areas in the right cerebellum 
suggestive of acute to subacute infarction), nephrolithiasis 
complicated by persistent hematuria and E. coli sepsis 
(requiring ureteral stenting and lithotripsy), prior gastric 
bypass surgery complicated by SBOs/multiple surgeries/adhesions, 
severe GERD/esophagitis, chronic lower back pain, osteoarthritis 
status post right TKA, depression/anxiety, and chronic opiate 
use with history of abuse who is referred in from ___ clinic for 
evaluation of abdominal pain. 

TRANSITIONAL ISSUES:
====================
[ ] Please provide outpatient taper of BID PPI if resolution of 
gastritis symptoms
[ ] Follow up keppra levels, which were pending at the time of 
discharge. Lacosamide level was 10.9 at time of discharge.
[ ] Bupropion was discontinued during admission given concern 
for seizures.

ACUTE ISSUES:
=============
# Acute on Chronic abdominal pain:
# nausea:
Pt has chronic ___ mid abd pain at baseline, with ___ 
RUQ/epigastric abd pain on admission. Reassuringly, chemistries, 
LFTs and CBC are wnl, Lactate:1.3 and trop X 1 undetectable. CT 
A&P also showed no acute intra-abdominal process to explain the 
patient's symptoms. In fact, there is little to no residual 
fluid component of a left RP collection, measuring 1.7 x 1.0 cm, 
(likely representing evolving hematoma) and the left iliacus 
collection is no longer visualized. There was mild intrahepatic 
biliary ductal dilatation and dilation of the CBD (unchanged 
from prior), however she is s/p cholecystectomy and LFTs without 
any abnormalities. Multi-factoral pain possible from prior 
gastritis, secondary gastroparesis from prior abdominal 
surgeries, narcotic bowel syndrome, and distorted GI anatomy. 
Viral gastroenteritis less likely etiology of abd pain and 
nausea. Functional abdominal pain is also possible, but dx of 
exclusion and timing is atypical. Most likely dx is exacerbation 
of prior gastritis given location, prior hx of gastritis given 
EGD findings, and relationship to eating/taking pills with 
almost instantaneous precipitation. She was thus escalated to PO 
BID PPI in addition to initiation of sucralfate. Maintained on 
promethazine for nausea given Compazine allergy. She was 
maintained on standing bowel regimen. Over few days this 
combination provided relief from instant pain/nausea following 
consumption and ultimately allowed successful advancement of 
diet. Remained on Methadone 10 TID per PCP, ___, and 
daily EKGs for QTc monitoring.

# Seizure disorder
She experienced generalized body shaking on ___ concerning for 
generalized tonic clonic seizure. She received IV Ativan 1mg x3 
for what appeared to be at least 2 separate episodes 
approximately 10 minutes apart. Etiology may be medication 
related, infectious from UTI though
less likely, subtherapeutic on AEDs given questionable adherence
at home per family, poor diet. Toxic metabolic and ischemic 
causes were less likely to be the culprit. Also noted to use 
eCigarettes per family, which can also be seizurogenic. Her 
ciprofloxacin was discontinued as this can lower seizure 
threshold. Neurology was consulted and EEG was placed to monitor 
for seizure activity. She did not have any further seizures and 
was only noted to have bursts of theta slowing, which are 
nonspecific, and will always be present on her EEG per 
neurology. Her wellbutrin was held on admission and was 
discontinued on discharge as this can also lower the seizure 
threshold. Her lacosamide and keppra levels were drawn and 
pending at the time of discharge.

# UA abnormalities:
Unknown if possible explanation of her abdominal pain (it would 
be atypical), and certainly much less likely than gastritis as 
underlying etiology. UA w/ WBCs w/out nitrites but w/ bacteria. 
No documented fevers but urinary symptoms suggestive of UTI. Has 
had recent h/o fluorquinolone sensitive Pseudomonas UTI. Had 
very resistant E coli UTI in ___ ___ to ___, zosyn, tobra). 
Received cipro in ED. UCx returned mixed flora. She was 
initiated on ciprofloxacin, which was discontinued on ___ in the 
setting of generalized body shaking concerning for generalized 
tonic clonic seizure as this medicine can lower the seizure 
threshold.

CHRONIC ISSUES:
===============
# mood d/o
Continued duloxetine and discontinued buproprion per above

# prior DVT/PE currently on apixaban
Continued apixaban

# leg pain
Continued gabapentin 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 100 mg PO TID 
2. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
3. LACOSamide 200 mg PO BID 
4. LevETIRAcetam 1500 mg PO BID 
5. BuPROPion 200 mg PO BID 
6. QUEtiapine Fumarate 75 mg PO QHS 
7. Docusate Sodium 100 mg PO BID 
8. Apixaban 5 mg PO BID 
9. Multivitamins 1 TAB PO DAILY 
10. Methadone 10 mg PO 8 AM 
11. Methadone 15 mg PO 2PM 
12. Methadone 10 mg PO 8 ___ 
13. Promethazine 6.25 mg PO BID:PRN nausea 
14. Omeprazole 20 mg PO DAILY 
15. DULoxetine 40 mg PO DAILY 
16. Doxepin HCl 10 mg PO HS 
17. Cyanocobalamin 100 mcg PO DAILY 
18. Thiamine 100 mg PO DAILY 
19. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth daily 
Disp #*30 Packet Refills:*0 
2.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Sucralfate 1 gm PO QID 
RX *sucralfate [Carafate] 1 gram/10 mL 10 ml by mouth four times 
a day Refills:*0 
4.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
5.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
6.  Apixaban 5 mg PO BID  
7.  Cyanocobalamin 100 mcg PO DAILY  
8.  Docusate Sodium 100 mg PO BID  
9.  Doxepin HCl 10 mg PO HS  
10.  DULoxetine 40 mg PO DAILY  
11.  Gabapentin 100 mg PO TID 
RX *gabapentin 100 mg 1 capsule(s) by mouth three times a day 
Disp #*30 Capsule Refills:*0 
12.  LACOSamide 200 mg PO BID 
RX *lacosamide [Vimpat] 200 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
13.  LevETIRAcetam 1500 mg PO BID 
RX *levetiracetam 750 mg 2 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
14.  Methadone 10 mg PO 8 AM 
RX *methadone [Dolophine] 5 mg 2 tabs by mouth three times a day 
Disp #*21 Tablet Refills:*0 
15.  Methadone 15 mg PO 2PM 
Consider prescribing naloxone at discharge  
16.  Methadone 10 mg PO 8 ___ 
Consider prescribing naloxone at discharge  
17.  Multivitamins 1 TAB PO DAILY  
18.  Promethazine 6.25 mg PO BID:PRN nausea  
19.  QUEtiapine Fumarate 75 mg PO QHS  
20.  Thiamine 100 mg PO DAILY  
21.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
Gastritis
Urinary tract infection

SECONDARY:
Seizure disorder
Mood disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
  - You were admitted because you had a new episode of abdominal 
pain which was separate from the one you had before.

What was done while I was in the hospital?
  - Pictures were taken that showed you did not have an sudden 
injury in one of the major organs in your abdomen such as your 
appendix or intestines.
  - You were suspected to have worsening of the gastritis 
(inflammation of your stomach) which you were diagnosed with in 
the past, and thus started on medications to help suppress the 
excess acid which may be generated in your stomach and to coat 
it and allow protection of its lining when you eat foods and 
take pills.
  - With treatment, your nausea and pain, which seemed to drive 
one-another improved in that region and you were able to 
tolerate more foods.

What should I do when I go home?
  - It is very important that you take your medications as 
prescribed.
  - Please go to your scheduled appointment with your primary 
doctor, ___, and gastroenterologist
  - Eat frequent, small meals. Continue to take the bowel 
regimen to ensure you are having regular bowel movements.
  - If you have worsening pains, excessive vomiting, chest pain 
or shortness of breath, please tell your primary doctor or go to 
the emergency room.

Best wishes, 
  Your ___ team
 
Followup Instructions:
___